US06303593B1
1-Benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine
A solution of 2.04 mL (23.4 mmol) of oxalyl chloride in 40 mL of dry CH2Cl2 was cooled to −78° C. under nitrogen. To this was added 3.32 mL (46.8 mmol) of DMSO and the mixture was stirred at −78° C. for 15 min. A solution of 3.2 g (11.7 mmol) of 1-benzyl-3-(S)-hydroxymethyl-4-(R)-(3-thienyl)pyrrolidine in 20 mL of dry CH2Cl2 was added and the mixture was stirred at −78° C. for 15 min. Then 8.15 mL (58.5 mmol) of triethylamine were added and the solution was allowed to warm to room temperature over 1 h. The reaction mixture was diluted with 400 mL of ether, poured onto 200 mL of water and the layers were separated. The aqueous layer was washed with ether and the combined organic extracts were washed with saturated NaHCO3 solution and brine. The organic fraction was dried over Na2SO4, filtered, and concentrated to afford the title compound, which was used directly in the next step.

reactant | oxalyl chloride | 23.4 mmol, 2.04 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 46.8 mmol, 3.32 mL | CS(=O)C | C2H6OS
reactant | 1-benzyl-3-(S)-hydroxymethyl-4-(R)-(3-thienyl)pyrrolidine | 11.7 mmol, 3.2 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)CO | C16H19NOS
reactant | triethylamine | 58.5 mmol, 8.15 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 400 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
product | 1-Benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)C=O | C16H17NOS
